US07541372B2
4-[5-(5-Methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-quinoline
As described for example 2, 5-methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide (200 mg, 0.92 mmol) was converted using quinoline-4-carboxylic acid instead of o-toluic acid to the title compound (SiO2, heptane:ethyl acetate:dichloromethane=50:30:20 to 20:60:20, 75 mg, 23%) which was obtained as a white solid. MS: m/e=355.2 [M+H]+.

reactant | 5-methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide | 0.92 mmol, 200 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C(=O)NN | C11H11N3O2
reactant | quinoline-4-carboxylic acid | N1=CC=C(C2=CC=CC=C12)C(=O)O | C10H7NO2
product | 4-[5-(5-Methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-quinoline | 75 mg, 23% | CC1=C(C(=NO1)C1=CC=CC=C1)C1=NN=C(O1)C1=CC=NC2=CC=CC=C12 | C21H14N4O2
